US07902237B2
Preparation of 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-5-[(N-methyl-phenylamino)-methylene]-thiazolidin-4-one
A mixture of 3-benzyl-5-[(N-methyl-phenylamino)-methylene]-2-thioxo-thiazolidin-4-one (0.40 g, 1.2 mmol) and methyl p-toluenesulfonate (0.26 g, 1.4 mmol) in DMF (2 mL, anhyd) was heated at 125° C. After 2 h, the reaction mixture was cooled and an aliquot (0.4 mL) of the intermediate was transferred to an oven-dried vial. The intermediate was diluted with MeCN (2 mL, anhyd) and charged with 3′-amino-4′-ethylamino-acetophenone (53 mg, 0.30 mmol). The reaction mixture was warmed to 50° C., charged with TEA (100 μL), sealed and heated at 65° C. After 16 h, the reaction mixture was cooled, concentrated and chromatographed (silica gel, 0:100 to 50:50 EtOAc-Hex) to give the title product (14 mg) as a yellow solid. 1H-NMR (CDCl3): δ 7.92 (1H, s), 7.65 (1H, dd), 7.50 (1H, d), 7.27-7.42 (7H, m), 7.14-7.23 (3H, m), 6.48 (1H, d), 5.12 (2H, s), 4.27 (1H, br s), 3.51 (3H, s), 3.02 (2H, q), 2.45 (3H, s), 1.01 (3H, t); MS (ESI): 485 (MH+).

reactant | 3-benzyl-5-[(N-methyl-phenylamino)-methylene]-2-thioxo-thiazolidin-4-one | 1.2 mmol, 0.40 g | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C)C1=CC=CC=C1)=S | C18H16N2OS2
reactant | methyl p-toluenesulfonate | 1.4 mmol, 0.26 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 3′-amino-4′-ethylamino-acetophenone | 0.30 mmol, 53 mg | NC=1C=C(C=CC1NCC)C(C)=O | C10H14N2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeCN | CC#N | C2H3N
product | 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-5-[(N-methyl-phenylamino)-methylene]-thiazolidin-4-one | 14 mg | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=CN(C)C1=CC=CC=C1)NCC | C28H28N4O2S
